US05099019
2-Diethylamino-4,6-dichloropyrimidine (10 g) is reacted with piperazine (14.45 g) in ethanol (200 ml) at reflux for 2 hr. The mixture is concentrated and the product isolated by silica gel chromatography giving 2-diethylamino-4-piperazino-6-chloropyrimidine. The 2-diethylamino-4-piperazino-6-chloropyrimidine (8 g) and N-methylpiperazine (8 g) is heated neat at 70° for 16 hr. Then water (2.5 ml) is added and the mixture is heated at 100° for 50 hr. The mixture is chromatographed on silica gel, the appropriate fractions are pooled and concentrated to give the title compound, NMR (CDCl3) 1.15, 2.80, 2.85, 2.90, 3.30, 3.70 and 4.95 δ.

reactant | 2-Diethylamino-4,6-dichloropyrimidine | 10 g | C(C)N(C1=NC(=CC(=N1)Cl)Cl)CC | C8H11Cl2N3
reactant | piperazine | 14.45 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-diethylamino-4-piperazino-6-chloropyrimidine | C(C)N(C1=NC(=CC(=N1)N1CCNCC1)Cl)CC | C12H20ClN5
